US08497274B2
(iv) Production of methyl 6-[3-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)phenoxy]-2-[(cyclopropylcarbonyl)amino]-1,3-benzothiazole-7-carboxylate
To a solution of methyl 2-amino-6-[3-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)phenoxy]-1,3-benzothiazole-7-carboxylate (0.92 g, 1.88 mmol) in pyridine (5 mL) was added cyclopropanecarbonyl chloride (371 μL, 4.1 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure. The obtained residue was diluted with ethyl acetate (100 mL), washed successively with water (100 mL) and saturated brine (100 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was suspended in methanol (10 mL), sodium carbonate (250 mg) was added, and the mixture was stirred at room temperature for 4 hr. The reaction mixture was diluted with ethyl acetate (100 mL), washed successively with water (100 mL) and saturated brine (100 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was successively purified by basic silica gel column chromatography (ethyl acetate/n-hexane=40/60→100/0) and silica gel column chromatography (ethyl acetate/n-hexane=40/60→60/40), and the obtained solution was concentrated under reduced pressure. The residue was crystallized from ethyl acetate/n-hexane to give the title compound (706 mg, 68%) as a pale-yellow powder.

reactant | methyl 2-amino-6-[3-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)phenoxy]-1,3-benzothiazole-7-carboxylate | 1.88 mmol, 0.92 g | NC=1SC2=C(N1)C=CC(=C2C(=O)OC)OC2=CC(=CC=C2)NC(=O)C2=CC(=CC=C2)C(C)(C)C#N | C26H22N4O4S
reactant | cyclopropanecarbonyl chloride | 4.1 mmol, 371 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | methyl 6-[3-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)phenoxy]-2-[(cyclopropylcarbonyl)amino]-1,3-benzothiazole-7-carboxylate | 706 mg, 68% | C(#N)C(C)(C)C=1C=C(C=CC1)C(=O)NC=1C=C(OC2=C(C3=C(N=C(S3)NC(=O)C3CC3)C=C2)C(=O)OC)C=CC1 | C30H26N4O5S
